US05378712
A solution of 1.5 g of methyl [[1-[N-(p-cyanbenzoyl)glycyl]-4-piperidinyl]oxy]acetate in 215 ml of pyridine/triethylamine 40:3 is saturated with hydrogen sulphide and left at room temperature for 24 hours. After removing the solvent, the residue is taken up in ethyl acetate and washed with saturated sodium chloride solution. The organic extracts are dried and concentrated. After chromatography of the residue on silica gel with ethyl acetate followed by ethyl acetate/methanol, there are isolated 1.34 g of methyl [[1-[N-[p-(thiocarbamoyl)benzoyl]-glycyl]-4-piperidinyl]oxy]acetate, MS (FAB): 394 (M+H)+.

reactant | methyl [[1-[N-(p-cyanbenzoyl)glycyl]-4-piperidinyl]oxy]acetate | 1.5 g | C(#N)C1=CC=C(C(=O)NCC(=O)N2CCC(CC2)OCC(=O)OC)C=C1 | C18H21N3O5
reactant | hydrogen sulphide | S | H2S
solvent | pyridine triethylamine | 215 ml | N1=CC=CC=C1.C(C)N(CC)CC
product | methyl [[1-[N-[p-(thiocarbamoyl)benzoyl]-glycyl]-4-piperidinyl]oxy]acetate | 1.34 g | C(N)(=S)C1=CC=C(C(=O)NCC(=O)N2CCC(CC2)OCC(=O)OC)C=C1 | C18H23N3O5S
